US06384065B1
In 3 ml of diethyl ether was dissolved 0.33 g of isopropyl 2-[4-[2-(tert-butoxy)-2-oxoethyl]-8-(3-methylbutylidene)-3-oxo-1-thia-4-azaspiro[4.5]decan-2-yl]-acetate. Then, 1 ml of a 5.39 mol/L solution of dry hydrogen chloride in dioxane was added and the resulting mixture was stirred at the same temperature as above for 2 hours. Further, 1 ml of 5.39 mol/L solution of dry hydrogen chloride in dioxane was added and the resulting mixture was stirred for one hour, after which 3 ml of 5.39 mol/L solution of dry hydrogen chloride in dioxane was added and the resulting mixture was stirred for one hour. The solvent was distilled off under reduced pressure, and the residue was purified by column chromatography [eluent: chloroform]. Then, hexane was added, and the deposited crystal was collected by filtration. Thus, 0.08 g of 2-[2-(2-isopropoxy-2-oxoethyl)-8-(3-methylbutylidene)-3-oxo-1-thia-4-azaspiro[4.5]decan-4-yl]-acetic acid was obtained as a colorless crystalline product.

reactant | isopropyl 2-[4-[2-(tert-butoxy)-2-oxoethyl]-8-(3-methylbutylidene)-3-oxo-1-thia-4-azaspiro[4.5]decan-2-yl]-acetate | 0.33 g | C(C)(C)(C)OC(CN1C(C(SC12CCC(CC2)=CCC(C)C)CC(=O)OC(C)C)=O)=O | C24H39NO5S
reactant | hydrogen chloride | Cl | ClH
solvent | diethyl ether | 3 ml | C(C)OCC | C4H10O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-[2-(2-isopropoxy-2-oxoethyl)-8-(3-methylbutylidene)-3-oxo-1-thia-4-azaspiro[4.5]decan-4-yl]-acetic acid | 0.08 g | C(C)(C)OC(CC1SC2(N(C1=O)CC(=O)O)CCC(CC2)=CCC(C)C)=O | C20H31NO5S
